US04111923
(c) O-Methyl-DL-tyrosine
A solution of 148 g. of 5-p-methoxybenzyl hydantoin and 188 g. of sodium hydroxide in one liter of water is heated at reflux for 25 hours. The solution is cooled and made acid to pH 1 with concentrated hydrochloric acid. The formed solid is separated by filtration, washed with water and dried to give the above named compound, mp. 255° C. dec.

reactant | 5-p-methoxybenzyl hydantoin | COC1=CC=C(CC2C(NC(N2)=O)=O)C=C1 | C11H12N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | one liter | O | H2O
product | O-Methyl-DL-tyrosine | COC1=CC=C(CC(N)C(=O)O)C=C1 | C10H13NO3
